US08124768B2
To a solution of 2,2-dimethyl-1,3-dioxane-4,6-dione (Meldrum's acid, 8.0 g, 56 mmol) dissolved in anhydrous methylene chloride (100 mL) and pyridine (11 mL), at 0° C. under nitrogen atmosphere, was slowly added 2-(4-fluorophenyl)acetyl chloride (7.6 mL, 9.6 g, 56 mmol). The red solution was stirred at 0° C. for 1.5 h. The reaction mixture was treated with 1 N HCl (13 mL) and diluted with methylene chloride (200 mL). The layers were separated and the organic layer was washed with saturated aqueous sodium chloride, dried and concentrated in vacuo to give 5-(2-(4-fluorophenyl)acetyl)-2,2-dimethyl-1,3-dioxane-4,6-dione. The crude intermediate was suspended in absolute ethanol (150 mL) and the resulting mixture was refluxed for 4 hours. The solvent was then removed in vacuo and the residue was purified by flash column chromatography (SiO2, 230-400 mesh, 8:1 hexane-ethyl acetate gradient elution) to afford the desired product (4.6 g, 37%). 1H NMR (CDCl3) δ 7.23-7.15 (m, 2H), 7.05-6.98 (m, 2H), 4.18 (q, 2H, J=7.0 Hz), 3.81 (s, 2H), 3.46 (s, 2H), 1.26 (t, 3H, J=7.0 Hz); MS (ESI+) m/z 225 (M+H)+.

reactant | 2,2-dimethyl-1,3-dioxane-4,6-dione | 56 mmol, 8.0 g | CC1(OC(CC(O1)=O)=O)C | C6H8O4
reactant | 2-(4-fluorophenyl)acetyl chloride | 56 mmol, 7.6 mL, 9.6 g | FC1=CC=C(C=C1)CC(=O)Cl | C8H6ClFO
reactant | HCl | 1 N, 13 mL | Cl | ClH
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 11 mL | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | 5-(2-(4-fluorophenyl)acetyl)-2,2-dimethyl-1,3-dioxane-4,6-dione | FC1=CC=C(C=C1)CC(=O)C1C(OC(OC1=O)(C)C)=O | C14H13FO5
